US07772285B2
3.00 g of 5-methyl-2-benzofuran-1,3-dione was suspended in 30 mL of methanol, to which 0.2 mL of sulfuric acid was added at room temperature, and this suspension was stirred for 2.5 hours while heating it under reflux. The reaction mixture was cooled to room temperature, and poured into ice water followed by addition of ethyl acetate, and then the organic phase was separated therefrom. After the resultant organic phase was washed with water and a saturated sodium chloride solution successively, the washed phase was dried over anhydrous magnesium sulfate, and then the solvent was distilled out under reduced pressure to yield 2.95 g of dimethyl 4-methylphthalate as light yellow oil.

reactant | 5-methyl-2-benzofuran-1,3-dione | 3.00 g | CC1=CC2=C(C(OC2=O)=O)C=C1 | C9H6O3
reactant | sulfuric acid | 0.2 mL | S(O)(O)(=O)=O | H2O4S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 30 mL | CO | CH4O
product | dimethyl 4-methylphthalate | 2.95 g | CC=1C=C(C(C(=O)OC)=CC1)C(=O)OC | C11H12O4
